US08247403B2
(2) 9-(pyridin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A mixture of tert-butyl 9-(pyridin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (109 mg, 0.334 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from methanol to give the desired product (19.0 mg, 19.0%) as a solid.

reactant | tert-butyl 9-(pyridin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.334 mmol, 109 mg | N1=CC=C(C=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H22N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(pyridin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 19.0 mg, 19.0% | Cl.Cl.N1=CC=C(C=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C14H14N2O.2ClH/c1-2-12-10-16-8-9-17-14(12)13(3-1)11-4-6-15-7-5-11;;/h1-7,16H,8-10H2;2*1H
